US05064832
(b) 4-cyano-2-(3-cyanophenyl)-pyridine
Starting from 4-chloro-2-(3-bromophenyl)-pyridine, the title compound is prepared by reaction with copper cyanide in boiling N,N-dimethylformamide.

reactant | 4-chloro-2-(3-bromophenyl)-pyridine | ClC1=CC(=NC=C1)C1=CC(=CC=C1)Br | C11H7BrClN
reactant | copper cyanide | [Cu](C#N)C#N
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 4-cyano-2-(3-cyanophenyl)-pyridine | C(#N)C1=CC(=NC=C1)C1=CC(=CC=C1)C#N | C13H7N3
